US05780642
A mixture of N-[1-(4-chlorophenyl)-1-methylethyl]-acrylamide (22.35 g), imidazole-4-carboxaldehyde (9.6 g), benzyltrimethylammonium hydroxide (2.24 ml of a 40% solution in methanol, Triton®B) and 1,4-dioxane (112 ml) was stirred and heated at 95° C. for 6 hours and then worked up as described in Example 19a to give N-[1-(4-chlorophenyl)-1-methylethyl]-3-(4-formylimidazol-1-yl) propionamide, m.p. 151°-153° C.

reactant | N-[1-(4-chlorophenyl)-1-methylethyl]-acrylamide | 22.35 g | ClC1=CC=C(C=C1)C(C)(C)NC(C=C)=O | C12H14ClNO
reactant | imidazole-4-carboxaldehyde | 9.6 g | N1C=NC(=C1)C=O | C4H4N2O
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 1,4-dioxane | 112 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | N-[1-(4-chlorophenyl)-1-methylethyl]-3-(4-formylimidazol-1-yl) propionamide | ClC1=CC=C(C=C1)C(C)(C)NC(CCN1C=NC(=C1)C=O)=O | C16H18ClN3O2
